US05866568
Tetrakis(triphenylphosphine)palladium (0) (60 mg) was added to a deoxygenated solution of sodium carbonate (212 mg), 4-propylphenylboronic acid (328 mg) and 2-chloro-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (828 mg) in a mixture of water (5 ml), ethanol (8 ml) and toluene (16 ml). The mixture was stirred and heated under argon at 80° C. for 17 hours and then allowed to cool to ambient temperature. Ice water (25 g) was added and the reaction extracted with ethyl acetate (3×50 ml). The combined organic layers were dried (MgSO4) and evaporated to afford an amber oil. This was purified by chromatography on a silica gel Mega Bond Elut column, eluting with 20% ethyl acetate/isohexane to give N-(isobutoxycarbonyl)-2-(4-propylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (760 mg) as a solid, mass spectrum (+ve ESP): 499 (M+H)+.

reactant | sodium carbonate | 212 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-propylphenylboronic acid | 328 mg | C(CC)C1=CC=C(C=C1)B(O)O | C9H13BO2
reactant | 2-chloro-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 828 mg | ClC1=NC=CC=C1S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C16H19ClN4O5S
reactant | ethanol | 8 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium | 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 16 ml | C1(=CC=CC=C1)C | C7H8
product | N-(isobutoxycarbonyl)-2-(4-propylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 760 mg | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)CCC)C1=NC=C(N=C1OC)C | C25H30N4O5S
